US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 4-(2-Fluoro-4-{[1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl]-amino}-phenoxy)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (0.05 g, 0.08 mmol, 1.0 eq.), 2-Morpholin-4-yl-ethylamine (0.016 ml, 0.12 mmol, 1.5 eq), HATU (0.076 g, 0.2 mmol, 2.5 eq), TEA (0.033 ml, 0.24 mmol, 3.0 eq), and dry DMF (5 ml). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, washed with (2×) H2O (50 ml), sat'd NaHCO3 (2×), 5% LiCl (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo, giving cyclopropane-1,1-dicarboxylic acid {3-fluoro-4-[6-(2-morpholin-4-yl-ethylcarbamoyl)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-amide(4-fluoro-phenyl)-amide as a cream solid (0.049 g, 83% yield). MS (ESI) for C36H43F2N7O6Si: 736 (MH+).

reactant | 4-(2-Fluoro-4-{[1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl]-amino}-phenoxy)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid | 0.08 mmol, 0.05 g, 1.0 eq. | FC1=C(OC=2C3=C(N=CN2)N(C(=C3)C(=O)O)COCC[Si](C)(C)C)C=CC(=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C30H31F2N5O6Si
reactant | 2-Morpholin-4-yl-ethylamine | 0.12 mmol, 0.016 ml, 1.5 eq | N1(CCOCC1)CCN | C6H14N2O
reactant | HATU | 0.2 mmol, 0.076 g, 2.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cyclopropane-1,1-dicarboxylic acid {3-fluoro-4-[6-(2-morpholin-4-yl-ethylcarbamoyl)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-amide(4-fluoro-phenyl)-amide | 0.049 g, 83% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC=1C2=C(N=CN1)N(C(=C2)C(NCCN2CCOCC2)=O)COCC[Si](C)(C)C)F | C36H43F2N7O6Si
